US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-(2-methylsulfonylphenyl)piperidino)propyl]-2-ethyl-2,3-dihydroisoindol-1-one hydrochloride.
3-(3,4-Dichlorophenyl)-3-(2-ethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl) propionaldehyde (0.724 g) was coupled to 4-(2-methylsufonyl-phenyl)piperidine (0.706 g) by a method similar to that described in Example 8. The reaction product was not purified by chromatography but converted to the hydrochloride salt to afford the title compound (0.64 g); mp 168°-175° C. (d); MS: m/z=585(M+1); NMR (CDCl3): 1.19 (m,3), 2.0 (m,3), 2.35 (m,7), 2.95 (s,3), 4.87 (m, 1), 6.56-8.01 (m, 11). Analysis for C31H34Cl2N2O3S·1.5 HCl·1.5 H2O: Calculated: C, 55.79; H, 5.82, N, 4.20; Found: C, 55.90; H, 5.45; N, 4.20.

reactant | 3-(3,4-Dichlorophenyl)-3-(2-ethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl) propionaldehyde | 0.724 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC=CC=C12)=O)CC | C19H17Cl2NO2
reactant | 4-(2-methylsufonyl-phenyl)piperidine | 0.706 g | CS(=O)(=O)C1=C(C=CC=C1)C1CCNCC1 | C12H17NO2S
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-(2-methylsulfonylphenyl)piperidino)propyl]-2-ethyl-2,3-dihydroisoindol-1-one hydrochloride | 0.64 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)C1=C(C=CC=C1)S(=O)(=O)C)C1N(C(C2=CC=CC=C12)=O)CC | InChI=1S/C31H34Cl2N2O3S.ClH/c1-3-35-30(25-9-4-5-10-26(25)31(35)36)24(22-12-13-27(32)28(33)20-22)16-19-34-17-14-21(15-18-34)23-8-6-7-11-29(23)39(2,37)38;/h4-13,20-21,24,30H,3,14-19H2,1-2H3;1H
